US07495007B2
Preparation of intermediate racemic (2′R,3R,4′S)-6-chloro-4′-(3-chlorophenyl)-2′-[2-hydroxy-5-(2-trimethylsilanyl-ethynyl)-phenyl]spiro[3H-indole-3,3′-piperidine]-2,6′-dione
To a stirred solution of racemic (2′R,3R,4′S)-6-chloro-4′-(3-chlorophenyl)-2′-[2-hydroxy-5-iodo-phenyl]spiro[3H-indole-3,3′-piperidine]-2,6′-dione (100 mg) in DMF (2 mL) were added PdCl2(PPh3)2 (18 mg), CuI (4 mg), trimethylsilyl acetylene (Aldrich, 0.40 mL) and Et3N (Aldrich, 0.62 mL) and the mixture was purged with nitrogen and then heated at 83° C. for 3 hrs. The solvent was removed and the crude was directly used for next step. MS (H+), 549.

reactant | racemic (2′R,3R,4′S)-6-chloro-4′-(3-chlorophenyl)-2′-[2-hydroxy-5-iodo-phenyl]spiro[3H-indole-3,3′-piperidine]-2,6′-dione | 100 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=CC(=CC=C1)Cl)=O)C1=C(C=CC(=C1)I)O)=O | C24H17Cl2IN2O3
reactant | trimethylsilyl acetylene | 0.40 mL | C[Si](C)(C)C#C | C5H10Si
reactant | Et3N | 0.62 mL | CCN(CC)CC | C6H15N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(PPh3)2 | 18 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 4 mg | [Cu]I
product | racemic (2′R,3R,4′S)-6-chloro-4′-(3-chlorophenyl)-2′-[2-hydroxy-5-(2-trimethylsilanyl-ethynyl)-phenyl]spiro[3H-indole-3,3′-piperidine]-2,6′-dione | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=CC(=CC=C1)Cl)=O)C1=C(C=CC(=C1)C#C[Si](C)(C)C)O)=O | C29H26Cl2N2O3Si
